US08303844B2
4.0 g (11.5 mmol) of 5,6-difluoro-8-(4-propylcyclohexyl)-1,2,3,8-tetrahydropyrano[3,2-f]chromene are hydrogenated at atmospheric pressure in THF and in the presence of Pd/C (5% of Pd). The reaction solution is filtered, and the filtrate is evaporated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:1-chlorobutane=1:1). The further purification is carried out by repeated recrystallisation from n-heptane at 5° C., giving 5,6-difluoro-3-(4-propylcyclohexyl)-1,2,3,8,9,10-hexahydropyrano[3,2-f]chromene as a colourless solid (m.p. 152° C.).

reactant | 5,6-difluoro-8-(4-propylcyclohexyl)-1,2,3,8-tetrahydropyrano[3,2-f]chromene | 11.5 mmol, 4.0 g | FC1=C2C(=C3C=CC(OC3=C1F)C1CCC(CC1)CCC)CCCO2 | C21H26F2O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 5,6-difluoro-3-(4-propylcyclohexyl)-1,2,3,8,9,10-hexahydropyrano[3,2-f]chromene | FC1=C2C(=C3CCCOC3=C1F)CCC(O2)C2CCC(CC2)CCC | C21H28F2O2
